US08865906B2
200 g (0.758 mol) 4-Cyclohexylamino-3-oxo-butyric acid ethyl ester hydrochloride were dissolved in 360 ml water and 120 ml tert-butanol and were heated to 90° C. Then 88.4 g (0.91 mol) KSCN were added and the mixture was heated for 20 s, thereby a phase separation occurred. After cooling to RT, the phases were separated and the aqueous layer was extracted with AcOEt. The combined organic layers were washed with Brine, dried with MgSO4 and concentrated. The solid was digested in MTBE and filtered to yield 192 g (0.715 mol, 94%) of (1-Cyclohexyl-2-thioxo-2,3-dihydro-1H-imidazol-4-yl)-acetic acid ethyl ester as a beige solid. HPLC: tR=1.16 min (YMC J′ sphere ODS H 80 20×2.1 mm, 4 μm, A: H2O+0.05% TFA, B: MeCN, 4%→95% B in 2 min, 1 ml/min, 30° C.); Mass (ES+) (C13H20N2O2S): calculated. 268. found 269 [M+H]+.

reactant | 4-Cyclohexylamino-3-oxo-butyric acid ethyl ester hydrochloride | 0.758 mol, 200 g | Cl.C(C)OC(CC(CNC1CCCCC1)=O)=O
reactant | tert-butanol | 120 ml | C(C)(C)(C)O | C4H10O
reactant | KSCN | 0.91 mol, 88.4 g | C(#N)[S-].[K+]
solvent | water | 360 ml | O | H2O
product | (1-Cyclohexyl-2-thioxo-2,3-dihydro-1H-imidazol-4-yl)-acetic acid ethyl ester | 0.715 mol, 192 g, 94% | C(C)OC(CC=1NC(N(C1)C1CCCCC1)=S)=O | C13H20N2O2S
